US05977178
N-((1R)-1-Aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester (830 mg, 3.14 mmol) was dissolved in dichloromethane (15 ml). Triethylamine (0.44 ml, 3.14 mmol) was added. The solution was cooled to -78° C. A solution of methanesulfonyl chloride (0.24 ml, 3.14 mmol) in dichloromethane (2 ml) was added dropwise. The reaction mixture was stirred for 16 h, while it was warming up to room temperature. It was diluted with dichloromethane (100 ml) and washed with saturated sodium chloride solution (100 ml). It was dried over magnesium sulfate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (65 g), using ethyl acetate/heptane (2:1) as eluent, to give 990 mg of N-((1R)-1-Benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamic acid tert-butylester.

reactant | N-((1R)-1-Aminomethyl-2-phenylethyl)-N-methylcarbamic acid tert-butylester | 3.14 mmol, 830 mg | C(C)(C)(C)OC(N(C)[C@H](CC1=CC=CC=C1)CN)=O | C15H24N2O2
reactant | Triethylamine | 3.14 mmol, 0.44 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 3.14 mmol, 0.24 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | N-((1R)-1-Benzyl-2-((methylsulfonyl)amino)ethyl)-N-methylcarbamic acid tert-butylester | 990 mg | C(C)(C)(C)OC(N(C)[C@@H](CNS(=O)(=O)C)CC1=CC=CC=C1)=O | C16H26N2O4S
